US09337430B2
5-Phenyl-5,6-dihydrophenanthridine
10 g (0.295 mol) of (2-bromobenzyl)diphenylamine are dissolved in 500 ml of dimethylformamide under protective atmosphere. 3.4 g (0.075 mol) of benzyltrimethylammonium bromide and 6.1 g (0.443 mol) of potassium carbonate are added to this solution. 0.99 g (0.004 mol) of Pd(OAC)2 is subsequently added under protective gas, and the mixture is stirred at 120° C. for 9 h. After this time, the reaction mixture is cooled to room temperature and extracted with dichloromethane. The combined organic phases are dried over Na2SO4 and evaporated. The residue is recrystallised from n-heptane. The yield is 6 g (80%).

reactant | (2-bromobenzyl)diphenylamine | 0.295 mol, 10 g | BrC1=C(CN(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | C19H16BrN
reactant | potassium carbonate | 0.443 mol, 6.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
catalyst | benzyltrimethylammonium bromide | 0.075 mol, 3.4 g | [Br-].C(C1=CC=CC=C1)[N+](C)(C)C
catalyst | Pd(OAC)2 | 0.004 mol, 0.99 g | CC(=O)O.CC(=O)O.[Pd]
product | 5-Phenyl-5,6-dihydrophenanthridine | C1(=CC=CC=C1)N1C=2C=CC=CC2C2=CC=CC=C2C1 | C19H15N
